US08431695B2
Preparation of 7-[1-(methylsulfonyl)piperidin-4-yl]-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a suspension of 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (80 mg, 0.20 mmol) in DMF (1 mL) was added methanesulfonyl chloride (17 μL, 0.22 mmol) and N,N-diisopropylethylamine (68 μL, 0.39 mmol). The reaction was stirred at rt for 17 h. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 28 mg (29%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 9.16 (s, 1 H), 8.10 (d, 2 H), 7.93 (s, 1 H), 7.85 (d, 1 H), 7.69 (s, 1 H), 7.55-7.63 (m, 2 H), 7.41-7.48 (m, 1 H), 7.22 (dd, 1 H), 6.68 (s, 1 H), 3.63-3.73 (m, 2 H), 3.21-3.32 (m, 1 H), 2.86-2.98 (m, 5 H), 2.10-2.21 (m, 2 H), 1.69-1.86 (m, 2 H); ES-MS m/z 488.23 [M+H]+, HPLC RT (min) 2.72.

reactant | 5-(2-phenyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.20 mmol, 80 mg | C1(=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C24H23N7
reactant | methanesulfonyl chloride | 0.22 mmol, 17 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 0.39 mmol, 68 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-[1-(methylsulfonyl)piperidin-4-yl]-5-(2-phenyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 28 mg, 29% | CS(=O)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)C2=CC=CC=C2 | C25H25N7O2S
